US05288743
A solution of ethyl 3-[1-(4-chlorobenzyl)-3-(1,1-dimethylethylthio)-5-(pyrid-3-ylmethoxy)indol-2-yl]-2,2-dimethylpropionate (3.6 g; 6.2 mmol), prepared as in step 5 in 30 mL 1:1 aqueous 1N LiOH, isopropanol was heated at 80° C. for 3 days. The reaction mixture was cooled to room temperature and the isopropanol was removed in vacuo. The residue was diluted with water and acidified to pH 5-6 by the addition of solid citric acid. The mixture was extracted with ethyl acetate. The combined extracts were dried over magnesium sulfate and concentrated. The resulting residue was chromatographed on silica gel (1% dichloromethane in diethyl ether containing 2% acetic acid to 5% dichloromethane in diethyl ether containing 2% acetic acid). Crystallization from ethyl acetate/methanol afforded 3-[1-(4-chlorobenzyl)-3-(1,1-dimethylethylthio)-5-(pyrid-3-ylmethoxy)indol-2-yl]-2,2-dimethylpropionic acid. m.p. 206°-208° C. 1H NMR (300 MHz, DMSO-d 6) δ1.08 (s, 6H), 1.15 (s, 9H), 3.17 (s, 2H), 3.18 (bs, 2H), 5.48 (s, 2H), 6.83 (m, 3H), 7.16 (d, J=3 Hz, 1H), 7.32 (m, 3H), 7.41 (dd, J=8, 5 Hz, 1H), 7.87 (m, 1H), 8.52 (dd, J=5, 2 Hz, 1H), 8.68 (d, J=2 Hz, 1H). MS (DCI/NH3) 537 (M+H)+. Analysis calcd for C30H33ClN2O3S: C, 67.08; H, 6.19; N, 5.22. Found: C, 66.65; H, 6.02; N, 5.11.

reactant | ethyl 3-[1-(4-chlorobenzyl)-3-(1,1-dimethylethylthio)-5-(pyrid-3-ylmethoxy)indol-2-yl]-2,2-dimethylpropionate | 6.2 mmol, 3.6 g | ClC1=CC=C(CN2C(=C(C3=CC(=CC=C23)OCC=2C=NC=CC2)SC(C)(C)C)CC(C(=O)OCC)(C)C)C=C1 | C32H37ClN2O3S
reactant | LiOH | 1N | [Li+].[OH-]
solvent | isopropanol | C(C)(C)O | C3H8O
product | 3-[1-(4-chlorobenzyl)-3-(1,1-dimethylethylthio)-5-(pyrid-3-ylmethoxy)indol-2-yl]-2,2-dimethylpropionic acid | ClC1=CC=C(CN2C(=C(C3=CC(=CC=C23)OCC=2C=NC=CC2)SC(C)(C)C)CC(C(=O)O)(C)C)C=C1 | C30H33ClN2O3S
